US06156700
Preparation of Methyl{{2-[5-[2-ethoxy-6-oxo-4-(trifluoromethyl)-1(6H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetate
A mixture of 2-ethoxy-3-[3-(6-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone (0.470 g, 1.05 mmol), potassium carbonate (0.190 g, 1.37 mmol) and methyl bromoacetate (0.210 g, 1.37 mmol) in N,N-dimethylformamide is stirred overnight at room temperature, diluted with ethyl acetate, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Flash column chromatography of the solid using silica gel and a 10% diethyl ether in methylene chloride solution gives the title product as an off-white solid (0.450 g, mp 171-174° C.).

reactant | 2-ethoxy-3-[3-(6-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone | 1.05 mmol, 0.470 g | C(C)OC1=NC(=CC(N1C=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)O)C)C1)=O)C(F)(F)F | C21H16F3N3O3S
reactant | potassium carbonate | 1.37 mmol, 0.190 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.37 mmol, 0.210 g | BrCC(=O)OC | C3H5BrO2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl{{2-[5-[2-ethoxy-6-oxo-4-(trifluoromethyl)-1(6H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetate | 0.450 g | COC(COC1=CC(=C(C=C1)C)C1=NSC2=C1C=C(C=C2)N2C(=NC(=CC2=O)C(F)(F)F)OCC)=O | C24H20F3N3O5S
